US09163021B2
2-(5-chloropyridin-2-yl)-N-(5-{[7-fluoro-1-(1-hydroxypropan-2-yl)-1H-pyrrolo[3,2-c]pyridin-3-yl]carbonyl}pyridin-3-yl)acetamide
Prepared according to Method M (Example 206) using (5-chloropyridin-2-yl)acetic acid (Preparation 80) and (5-aminopyridin-3-yl)[7-fluoro-1-(2-hydroxy-1-methylethyl)-1H-pyrrolo[3,2-c]pyridin-3-yl]methanone (Enantiomer 2, Preparation 26). The residue was purified using preparative TLC eluting with 5% MeOH in EtOAc.

reactant | (5-chloropyridin-2-yl)acetic acid | ClC=1C=CC(=NC1)CC(=O)O | C7H6ClNO2
reactant | (5-aminopyridin-3-yl)[7-fluoro-1-(2-hydroxy-1-methylethyl)-1H-pyrrolo[3,2-c]pyridin-3-yl]methanone | NC=1C=C(C=NC1)C(=O)C1=CN(C2=C1C=NC=C2F)C(CO)C | C16H15FN4O2
product | 2-(5-chloropyridin-2-yl)-N-(5-{[7-fluoro-1-(1-hydroxypropan-2-yl)-1H-pyrrolo[3,2-c]pyridin-3-yl]carbonyl}pyridin-3-yl)acetamide | ClC=1C=CC(=NC1)CC(=O)NC=1C=NC=C(C1)C(=O)C1=CN(C2=C1C=NC=C2F)C(CO)C | C23H19ClFN5O3
